US04727082
In 46 ml of methanol were dissolved 4.62 g of diethyl 4-[2-(4-aminobutoxy)-5-nitrophenyl]-2-ethyl-6-methyl-1,4-dihydropyridine-3,5-dicarboxylate and 1.46 g of glycidyl phenyl ether, and the solution formed was refluxed under heating for 15 hours. After cooling the reaction solution, the solution was concentrated under reduced pressure. The residue was subjected to silica gel column chromatography, and the product was eluted with chloroform-methanol (95:5 v/v). Crude crystals were recrystallized from ethanol to give 1.22 g of diethyl 2-ethyl-4-[2-[4-(2-hydroxy-3-phenoxypropylamino)butoxy]-5-nitrophenyl]-6-methyl-1,4-dihydropyridine-3,5-dicarboxylate.

reactant | diethyl 4-[2-(4-aminobutoxy)-5-nitrophenyl]-2-ethyl-6-methyl-1,4-dihydropyridine-3,5-dicarboxylate | 4.62 g | NCCCCOC1=C(C=C(C=C1)[N+](=O)[O-])C1C(=C(NC(=C1C(=O)OCC)C)CC)C(=O)OCC | C24H33N3O7
reactant | glycidyl phenyl ether | 1.46 g | C1(=CC=CC=C1)OCC1CO1 | C9H10O2
solvent | methanol | 46 ml | CO | CH4O
product | diethyl 2-ethyl-4-[2-[4-(2-hydroxy-3-phenoxypropylamino)butoxy]-5-nitrophenyl]-6-methyl-1,4-dihydropyridine-3,5-dicarboxylate | 1.22 g | C(C)C=1NC(=C(C(C1C(=O)OCC)C1=C(C=CC(=C1)[N+](=O)[O-])OCCCCNCC(COC1=CC=CC=C1)O)C(=O)OCC)C | C33H43N3O9
